US07456164B2
1,1-Dimethyl-3-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-urea
To a stirred solution of {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine (200 mg, 0.63 mmol) and triethylamine (106 μL, 0.754 mmol) in anhydrous dichloromethane (9 mL) under nitrogen atmosphere was added dropwise a solution of dimethylcarbamoylchloride (69 μL, 0.754 mmol) in anhydrous dichloromethane (1 mL). After stirring for 3 h at 0° C., the reaction mixture was quenched with a saturated aqueous solution of NaHCO3. The organic layer was separated and washed with water then dried over magnesium sulfate, filtered, concentrated under reduced pressure and purified by column chromatography on silica gel eluting with DCM:MeOH (95:5 to 90:10) to give the title compound (80 mg, 32%). 1H NMR (400 MHz, CDCl3) δ7.13 (d, 2H), 6.86 (d, 2H), 3.98 (t, 2H), 3.84 (t, 1H), 3.74 (m, 2H), 3.52 (m, 2H), 3.36 (d, 2H), 2.69 (s, 6H), 2.65 (m, 2H), 2.57 (m, 4H), 2.02-1.95 (m, 4H), 1.84-1.78 (m, 6H).

reactant | {4-[4-(3-pyrrolidin-1-ylpropoxy)phenyl]tetrahydropyran-4-yl}methylamine | 0.63 mmol, 200 mg | N1(CCCC1)CCCOC1=CC=C(C=C1)C1(CCOCC1)CN | C19H30N2O2
reactant | triethylamine | 0.754 mmol, 106 μL | C(C)N(CC)CC | C6H15N
reactant | dimethylcarbamoylchloride | 0.754 mmol, 69 μL | CN(C(=O)Cl)C | C3H6ClNO
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 1 mL | ClCCl | CH2Cl2
product | 1,1-Dimethyl-3-{4-[4-(3-pyrrolidin-1-yl-propoxy)-phenyl]-tetrahydro-pyran-4-ylmethyl}-urea | 80 mg, 32% | CN(C(=O)NCC1(CCOCC1)C1=CC=C(C=C1)OCCCN1CCCC1)C | C22H35N3O3
